US04988723
A mixture of trans-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (2.18 g) and dimethyl N-cyanoimidodithiocarbonate [(CH3S)2C=N--CN] (1.54 g) in dry pyridine (11 ml) was stirred at 80° C. for 2.5 hours, and under reflux for 2.5 hours. The reaction mixture was diluted with ethyl acetate (40 ml) and washed with 5% hydrochloric acid (30 ml×2). The organic layer was washed successively with water (30 ml), saturated aqueous sodium bicarbonate (30 ml) and brine (30 ml), dried over magnesium sulfate, and evaporated in vacuo. The residue was subjected to column chromatography on silica gel (70 g) and eluted with chloroform and a mixture of chloroform and methanol (50:1 and then 20:1). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was triturated with diisopropyl ether. The crystals were recrystallized from ethanol to give trans-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro- 3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (2.01 g).

reactant | trans-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 2.18 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | dimethyl N-cyanoimidodithiocarbonate | 1.54 g | CSC(=NC#N)SC | C4H6N2S2
solvent | pyridine | 11 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | trans-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro- 3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 2.01 g | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)SC | C15H16N4O2S
